Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides)
 
Attending: ___.
 
Chief Complaint:
nausea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo resident of ___ admitted after feeling 
poorly for the last ___ days. The pt had been in her usual state 
of health when she noticed she was having frequent mild nausea 
and a decreased appetite. Earlier on the day of admission she 
was sitting in a common area having lunch when she became 
acutely nauseous and vomited. Her vitals were checked and she 
was reported to be hypotensive with an SBP in the ___. The pt 
was transferred to the ED for evaluation where she was found to 
have a UTI as well as to be in AF with RVR. In further 
discussion with the pt, she reports that she has had some mild 
right sided abd pain lately, but has otherwise been feeling 
well. She specifically denies any chest, jaw or arm pain. No 
palpitations and denies any prior history of AF. No dysuria, 
although the pt reports that she has had frequent urination "all 
her life." No fevers or chills. No SOB. No abd pain. No change 
in bowel habbits. No MSK sxs.  
.  
The pt was treated with Cipro, Flagyl and vancomycin in the ED 
before the source of her infection was identified. Her blood 
pressure stablized to the 120s without any specific 
intervention. She was admitted to the medical service for 
further care.  

 
Past Medical History:
-HTN  
-Hyperlipidemia  
-s/p CVA ___ years ago with residual left sided weakness  
-Spinal stenosis s/p surgery many yrs ago, baseline leg weakness 
and bilateral hand weakness.  
-s/p lumpectomy in ___: may have been brief period of Afib 
post-op, never on AC  
 
Social History:
___
Family History:
Mother- HTN
No hx of stroke

 
Physical Exam:
Vitals: T 96.0 P 98 R 18 140/88 93% on RA  
Gen: Elderly appearing adult female, no acute distress.  
HEENT: PERRL, EOMI. MMM. Conjunctiva well pigmented.  
Neck: Supple, without adenopathy or JVD. No tenderness with 
palpation.  
Chest: CTAB anterior and posterior.  
Cor: Normal S1, S2. Mildly tachycardic. Soft systolic murmur 
heard best at upper sternum.  
Abdomen: Soft, non-tender and non-distended. +BS, no HSM.  
Extremity: Warm, without edema. 2+ DP pulses bilat.  
Neuro: Alert and oriented. CN ___ intact. Motor strength 
decreased in left extremities. Sensation intact grossly.  

 
Pertinent Results:
Admission EKG: AF with ventricular rate of 106. Normal axis and 
intervals. TWI in V4-V6. Decreased R waves in III and aVF. TWI 
and inferior voltage loss new as compared to tracing from ___.  

.  
CT Abd (___)  
1. No intra- or extra-hepatic biliary dilatation. Unremarkable 
gall bladder.  
2. Bilateral pleural effusions, left greater than right with 
associated atelectasis.  
3. Minimal pericardial effusion.  
4. Scattered hypodensities within the kidneys bilaterally, is 
too small to characterize, statistically likely represents 
simple cysts.  
.  
___ ECHO: The left atrium is elongated. No atrial septal 
defect is seen by 2D or color Doppler. There is mild 
(non-obstructive) focal hypertrophy of the basal septum. The 
left ventricular cavity size is normal. Overall left ventricular 
systolic function is mildly to moderately depressed (LVEF= 40 %) 
with global hypokinesis and regional akinesis to dyskinesis of 
the basal to mid infero-lateral walls.. There is no ventricular 
septal defect. Right ventricular chamber size and free wall 
motion are normal. The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) are mildly thickened. There is a 
minimally increased gradient consistent with minimal aortic 
valve stenosis. Mild (1+) aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild to moderate 
(___) mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. Moderate [2+] tricuspid 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion. 
Compared with the prior study (images reviewed) of ___, the 
degree of MR seen is less.  
.
___ CXR PA&lat: 
FINDINGS: In comparison with the study of ___, there is little 
change in the appearance of the bilateral pleural effusions, 
substantially greater on the left. Some atelectatic changes are 
seen at the left base, though the right base is quite clear at 
this time. 
.
___ INR 2.8
___  WBC-11.0 RBC-3.83* Hgb-10.1* Hct-32.4* MCV-85 
MCH-26.4* MCHC-31.2 RDW-15.0 Plt ___
___  Glucose-100 UreaN-25* Creat-1.1 Na-140 K-3.5 Cl-104 
HCO3-26 AnGap-14
 
Brief Hospital Course:
# UTI: Pt presented with Ecoli UTI that was resistant to Cipro. 
She was switched to Ceftriaxone and then should complete a 10day 
course of po Cefpodoxime. She remained afebrile in house with a 
stable WBC ct.  Plan to continue Cefpodoxime 200mg BID day for 
an additional 7 days to complete a 10 day course.
.  
# AF: Pt denies prior diagnosis of AF and this occurred in 
setting of acute illness.  However, given CHADs score of 4, pt 
will benefit from anti-coagulation for stroke prevention and she 
agreed to this treatment plan.  Pt was started on Coumadin and 
INR on day of discharge was 2.8. Recommend continuing Coumadin 
1mg daily with follow up INR to be drawn on ___.  Metoprolol 
was increased to 125mg BID for rate/BP control.
.
# Acute Systolic Heart failure:  Pt with depressed EF of 40% and 
2+MR presented with ARF and lasix was held, gentle IVF 
administered for 2 days.  Pt then began hypertensive with new 
oxygen requirement & bilateral effusions that had been seen on 
prior admissions.  Pt was gently diuresed with goal to wean from 
supplemental oxygen. Pt should continue Lasix 20mg daily with 
Lisinopril 20mg daily & increased Metoprolol 125mg BID. Please 
continue to tritrate lasix as needed until patient stable on 
room air.
.
# Hypertension: Pt developped poorly controlled BPs after lasix 
was held for 2 days and gentle IVF administration.  Suspect that 
rising BP was due to volume overload, after gentle diuresis and 
resuming home anti-hypertensive regimen, BP was much better 
controlled.  Pt should continue Lasix 20mg daily Lisinopril 20mg 
daily & increased Metoprolol 125mg BID.
.  
# CAD/Trop elevation: Pt had troponin leak after the episode of 
AFib with RVR and in the setting of UTI & ARF. Pt was noted to 
have some demand related EKG changes when in Afib with RVR but 
denied any symptoms. EKG was back at baseline after conversion 
to NSR. ECHO was unchanged from prior studies with depressed EF 
of 40%, MR & TR. Cards was curbsided due troponin peak of 0.31 
and they agreed that this was likely demand related troponin 
leak in setting of ARF. Pt likely has underlying CAD with flow 
limiting lesions, but pt clearly expressed goal to avoid any 
intervention including cath and the plan is for ongoing medical 
management of CAD.  Metoprolol was increased to 125mg BID and pt 
was continued on ASA, statin and Lisinopril.  
.  
# Acute renal failure: Pt presented with creatinine of 1.4 up 
from baseline of 0.9. Lasix & ACE were held and this resolved 
with gentle IVF. Pt was restarted on Lasix & ACE and creatinine 
remained stable at 1.1.
.  
# Anemia: Hematocrit was noted to have trended down from 38 to 
low ___ and iron studies revealed a Fe/TIBC ratio of <15%.  Pt 
was started on Ferrous Sulfate 325mg with bowel regimen. There 
was no report of guaic positive stools but recommend outpt GI 
follow up.
. 
# Code: DNR/DNI-confirmed with patient 

 
Medications on Admission:
Aggrenox ___ BID  
ASA 81 mg daily  
lisinopril 20 mg daily  
protonix 20 mg daily  
simethicone 40 mg BID  
simvastatin 40 mg daily  
Zeasorb topical powder  
KCl 20 mEq daily  
Metoprolol 75 mg BID  
Lasix 20 mg daily  

 
Discharge Medications:
1. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day).  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. Simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed.  
5. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
9. Outpatient Lab Work
Please draw ___ on ___ and forward to nursing 
home MD
10. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  
11. Warfarin 1 mg Tablet Sig: One (1) Tablet PO once a day: to 
be adjusted per INR and MD recs.  
12. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Metoprolol Tartrate 50 mg Tablet Sig: 2 & ___ Tablets PO 
twice a day.  
14. Cefpodoxime 100 mg Tablet Sig: Two (2) Tablet PO Q12H (every 
12 hours) for 7 days.  
15. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) inhalation Inhalation Q6H (every 6 
hours) as needed for shortness of breath or wheezing.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Urinary tract infection
New onset Atrial Fibrillation
CAD with Demand Ischemia
Acute Systolic Heart failure
.
Secondary:
HTN
s/p CV with L sided weakness

 
Discharge Condition:
stable on 1L of O2 via NC

 
Discharge Instructions:
You were admitted with a urinary tract infection and found to 
have an arrythmia called atrial fibrillation.  This places you 
at higher risk for stroke and we have started you on a 
medication called Coumadin to thin the blood and decrease that 
risk.  You will need to have your blood monitored regularly 
while taking this medication.  You will need to continue 
Cefpodoxime for another ....days.  We have increased the 
Metoprolol to 125mg twice daily.
.
Otherwise, we have not made any changes to your medication 
regimen.
.
If you develop any chest pain, shortness of breath, weakness or 
any other general worsening in condition, please call your PCP 
or come directly to the ED.
 
Followup Instructions:
___